US07723333B2
Methyl (4-{3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propoxy}phenyl)acetate
The title compound was prepared as described for Example 12 from methyl (4-hydroxyphenyl)acetate and 3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propyl 4-methylbenzenesulfonate with a reaction time of 30 mins. The reaction mixture was evaporated and the residue was purified by silica gel column chromatography (Horizons Biotage) using 25% EtOAc in hexane as eluent to give the title compound (0.079 g, 75%). 1H NMR (500 MHz CDCl3): δ 7.52-7.44 (m, 2H), 7.14-7.38 (m, 3H), 7.17 (d, 2H), 6.78 (d, 2H), 5.72 (t, 1H), 3.85 (t, 2H), 3.68 (s, 3H), 3.56 (s, 2H), 3.10-3.00 (m, 2H), 1.84-1.78 (m, 2H), 1.72 (s, 9H); 13C NMR (125 MHz CDCl3): δ 172.5, 159.8, 157.7, 135.3, 131.8, 130.7, 130.5, 129.7, 128.8, 126.8, 125.3, 115.7, 114.7, 107.2, 66.1, 61.7, 52.2, 42.4, 40.5, 28.9, 27.8; Mass Spectrum: M+H+ 487.

reactant | methyl (4-hydroxyphenyl)acetate | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | 3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCCNC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)(C)C)=O | C23H28N2O6S2
product | Methyl (4-{3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propoxy}phenyl)acetate | 0.079 g, 75% | C(C)(C)(C)N1S(C(=C(C1=O)NCCCOC1=CC=C(C=C1)CC(=O)OC)C1=CC=CC=C1)(=O)=O | C25H30N2O6S
